US07973169B2
41) 4-Methyl-N-(5-methyl-thiazol-2-yl)-benzamide
5-Methyl-thiazol-2-ylamine (22.8 mg, 0.200 mmol) and 4-methyl-benzoyl chloride (30.9 mg, 0.200 mmol) were dissolved in 1,4-dioxane (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). The reaction mixture was stirred overnight at room temperature. The crude product was filtered, evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (9.29 mg, 0.0400, 20.0%). ESI-MS m/z calc. 232.1, found 233.2 (M+1)+ Retention time 2.65 minutes.

reactant | 5-Methyl-thiazol-2-ylamine | 0.200 mmol, 22.8 mg | CC1=CN=C(S1)N | C4H6N2S
reactant | 4-methyl-benzoyl chloride | 0.200 mmol, 30.9 mg | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-Methyl-N-(5-methyl-thiazol-2-yl)-benzamide | CC1=CC=C(C(=O)NC=2SC(=CN2)C)C=C1 | C12H12N2OS
